US04174958
(a) 5-(1-Methylcyclopropyl)-1,3,4-oxadiazol-2(3H)-one.
A solution containing 54.0 g (0.385 mol) of 1-methylcyclopropanecarboxylic acid hydrazide (m.p. 72°-74°) and 90 g (0.9 mol) of phosgene in 1000 ml of ethyl acetate was refluxed for 2 hours. The reaction mixture was concentrated on a rotary evaporator. The residual solid crystallized from ether-hexane (1:5) to give 56.0 g (85%) of product as a white crystalline solid; m.p. 77°-78°.

reactant | 1-methylcyclopropanecarboxylic acid hydrazide | 0.385 mol, 54.0 g | CC1(CC1)C(=O)NN | C5H10N2O
reactant | phosgene | 0.9 mol, 90 g | C(=O)(Cl)Cl | CCl2O
solvent | ethyl acetate | 1000 ml | C(C)(=O)OCC | C4H8O2
product | 5-(1-Methylcyclopropyl)-1,3,4-oxadiazol-2(3H)-one | 56.0 g, 85% | CC1(CC1)C1=NNC(O1)=O | C6H8N2O2
